US08030332B2
Preparation of 2-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-(dipyridin-3-ylmethyl)pyridine-3-amine (1-2)
To a solution of (dipyridin-3-ylmethyl)amine (139 mg, 0.75 mmol) (prepared according to the procedure in German patent DE 2447258 (1976)) and 4-(3-chloropyridin-2-yl)-3,4-dihydro-2H-1,4-benzoxazine (183 mg, 0.75 mmol) in dry dioxane (1.5 mL) was added sodium t-butoxide (91 mg, 0.95 mmol), bis(tri-t-butylphosphine)palladium(0) (30 mg, 0.058 mmol). The vessel was sealed with a septum cap, degassed (3×), and heated at 100 C for 8 hours. The reaction was cooled and diluted with methylene chloride and washed with NaHCO3 solution. The organic layer was dried over anhydrous sodium sulfate, filtered, and the solvent evaporated. The residue was purified by chromatography on silica gel eluting with a 20-90% acetone/hexane gradient to the title compound as a clear glass. 1H-NMR (500 MHz, CDCl3): δ 8.60 (2H, s), 8.56 (2H, d, J=4.4 Hz), 7.91 (1H, d, J=4.6 Hz), 7.54 (1H, d, J=7.8 Hz), 7.26 (1H, t, J=7.5 Hz), 6.97 (1H, dd, J=4.6, 7.8 Hz), 6.87 (1H, d, J=7.8 Hz), 6.77-6.81 (3H, m), 6.37 (1H, d, J=7.6 Hz); 5.57 (1H, d, J=4.4 Hz), 4.77 (1H, d, J=4.1 Hz), 4.40 (2H, t, J=4.4 Hz), 3.76 (2H, br s). m/e (m+1): 396.2

reactant | (dipyridin-3-ylmethyl)amine | 0.75 mmol, 139 mg | N1=CC(=CC=C1)C(C=1C=NC=CC1)N | C11H11N3
reactant | 4-(3-chloropyridin-2-yl)-3,4-dihydro-2H-1,4-benzoxazine | 0.75 mmol, 183 mg | ClC=1C(=NC=CC1)N1CCOC2=C1C=CC=C2 | C13H11ClN2O
reactant | sodium t-butoxide | 0.95 mmol, 91 mg | CC(C)([O-])C.[Na+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.058 mmol, 30 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 2-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-(dipyridin-3-ylmethyl)pyridine-3-amine | O1CCN(C2=C1C=CC=C2)C2=NC=CC=C2NC(C=2C=NC=CC2)C=2C=NC=CC2 | C24H21N5O
